US04080443
4((6-Fluoro-2-pyridyl)thio)phenol
A mixture comprising 69 grams (0.6 mole) of 2,6-difluoropyridine, 75.6 grams (0.6 mole) of 4-mercaptophenol and 49.5 grams (0.75 mole) of 85 percent potassium hydroxide was stirred in 300 milliliters of monoglyme for ~ 4 days at room temperature. At the end of this time, the reaction mixture was filtered to remove any solid by-products present. The filtrate was concentrated to remove most of the monoglyme and the residue mixed with 400 milliliters of 5 percent sodium hydroxide. The mixture was washed with methylene chloride and the aqueous solution acidified with concentrated hydrochloric acid. The solid 4-((6-fluoro-2-pyridyl)thio)phenol product precipitated out and was recovered by filtration, washed with water and dried. The product was recovered in a yield of 112 grams (87 percent of theoretical) and melted at 123°-124° C.

reactant | 2,6-difluoropyridine | 0.6 mole, 69 grams | FC1=NC(=CC=C1)F | C5H3F2N
reactant | 4-mercaptophenol | 0.6 mole, 75.6 grams | SC1=CC=C(C=C1)O | C6H6OS
reactant | potassium hydroxide | 0.75 mole, 49.5 grams | [OH-].[K+]
solvent | monoglyme | 300 milliliters | C(OC)COC | C4H10O2
product | 4((6-Fluoro-2-pyridyl)thio)phenol | FC1=CC=CC(=N1)SC1=CC=C(C=C1)O | C11H8FNOS
